US04470986
Ethanolamine (6.1 g) and 5-(5-carboxypentyl)-imidazo[1,5-a]pyridine (2.32 g) are heated at 170° for 3 hours. Excess ethanolamine is removed by distillation under reduced pressure to yield 5-[5-(4,5-dihydrooxazol-2-yl)pentyl)]imidazo[1,5-a]pyridine.

reactant | Ethanolamine | 6.1 g | C(O)CN | C2H7NO
reactant | 5-(5-carboxypentyl)-imidazo[1,5-a]pyridine | 2.32 g | C(=O)(O)CCCCCC1=CC=CC=2N1C=NC2 | C13H16N2O2
product | imidazo[1,5-a]pyridine | C=1N=CN2C1C=CC=C2 | C7H6N2
